US05882628
N,N'-Bis(hydroxyacetyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
3,5-Bis(acetoxyacetylamino)-2,4,6-triiodobenzylacetate (190 mg, 0.25 mmol), prepared according to Example 4, was dissolved in dimethylacetamide (5 ml) under an argon atmosphere. 2-Bromoethyl acetate (0.22 ml, 2.0 mmol) and K2CO3 (138 mg, 1.0 mmol) were added. After 16 h, DMSO (1.5 ml), 2-bromoethyl acetate (0.22 ml, 2.0 mmol) and K2CO3 (138 mg, 1.0 mmol) were added and the suspension was stirred for another 24 h. Aqueous NaH2PO4 was added and the resulting solution was extracted with ether (3×25 ml). The combined organic phases were washed with water (4×20 ml) and then dried (MgSO4). The solvent was removed by evaporation and the residue, a colorless oil, was dissolved in a mixture of methanol (3 ml) an 1M aqueous NaOH (3 ml). The solution was stirred for 1 h, pH was adjusted to 6 using aqueous HCl and the solvents were removed by evaporation. Purification by preparative HPLC gave 60 mg (33%) of the product.

reactant | 3,5-Bis(acetoxyacetylamino)-2,4,6-triiodobenzylacetate | 0.25 mmol, 190 mg | C(C)(=O)OCC(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(COC(C)=O)=O)I)I
reactant | 2-Bromoethyl acetate | 2.0 mmol, 0.22 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 1.5 ml | CS(=O)C | C2H6OS
reactant | 2-bromoethyl acetate | 2.0 mmol, 0.22 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | N,N'-Bis(hydroxyacetyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | 60 mg, 33% | OCC(=O)N(C=1C(=C(CO)C(=C(C1I)N(CCO)C(CO)=O)I)I)CCO | C15H19I3N2O7
